US05175157
2-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-pyrrolidin-3-yl)-methyl]-6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline
Prepared from 6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline and N-[2-(3,4-dimethoxy-phenyl)-ethyl]-3-benzenesulphonyloxymethyl-pyrrolidine analogously to Example 2.

reactant | 6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline | CC=1C=C2CCNC(C2=CC1C)=O | C11H13NO
reactant | N-[2-(3,4-dimethoxy-phenyl)-ethyl]-3-benzenesulphonyloxymethyl-pyrrolidine | COC=1C=C(C=CC1OC)CCN1CC(CC1)COS(=O)(=O)C1=CC=CC=C1 | C21H27NO5S
product | 2-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-pyrrolidin-3-yl)-methyl]-6,7-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinoline | COC=1C=C(C=CC1OC)CCN1CC(CC1)CN1C(C2=CC(=C(C=C2CC1)C)C)=O | C26H34N2O3
